US06867323B2
Preparation of (Z)-1-(1-Heptenyl)naphthalene ((Z)-154a) [Table 22, entry, 2]
Following General Procedure II, a mixture of KOSiMe3 (570 mg, 4.0 mmol, 2.0 equiv), (Z)-21 (379 mg, 2.2 mmol, 1.1 equiv), 1-iodonaphthalene (292 μL, 2.0 mmol) and Pd(dba)2 258 mg, 0.1 mmol, 0.05 equiv) was stirred at room temperature for 9 h, and then was filtered through SiO2. Purification by column chromatography (RP C18, MeOH/H2O, 9/1) and Kugelrohr distillation afforded 394 mg (88%) of (Z)-154a as colorless oil.

reactant | KOSiMe3 | 4.0 mmol, 570 mg, 2.0 equiv | O([K])[Si](C)(C)C
reactant | 1-iodonaphthalene | 2.0 mmol, 292 μL | IC1=CC=CC2=CC=CC=C12 | C10H7I
catalyst | Pd(dba)2 | 0.1 mmol, 258 mg, 0.05 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | (Z)-1-(1-Heptenyl)naphthalene | C(=C/CCCCC)/C1=CC=CC2=CC=CC=C12 | C17H20
